US04683296
p-Nitrobenzyl acetoacetate
A mixture of ethyl acetoacetate (140 g, 1.08 mole) and p-nitrobenzyl alcohol (153 g, 1.00 mole; was washed with diethyl ether prior to use) in toluene (1 L) was slowly distilled, 900 ml of the solvent being collected over a period of 15 hours. After cooling, any insoluble material was removed by filtration over Celite, washed with toluene and evaporated in vacuo to obtain 280 g of a crude oil. This oil was crystallized at 5° C. from diethyl ether (280 ml) to yield 181.55 g (0.766 mole, 76.6% yield) of the title compound as off-white crystals: mp 40°-42° C.; ir (film) νmax : 1740 (ester), 1715 (C=O), 1515 and 1345 (NO2) cm-1 ; 1Hmr (CDCl3) δ: 1.98 (s, impurity), 2.32 (3H, s, CH3), 3.62 (2H, s, --COCH2CO2R), 5.08 (s, impurity), 5.28 (2H, s, --CO2CH2Ar), 7.53 (2H, "d", J=9 Hz, ArH's), and 8.23 ppm (2H, "d", J=9 Hz, ArH's); Rf 0.45 (diethyl ether). An analytical sample was obtained by recrystallization from toluene-hexanes: mp 47°-49° C.

reactant | ethyl acetoacetate | 1.08 mole, 140 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | p-nitrobenzyl alcohol | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
product | p-Nitrobenzyl acetoacetate | 0.766 mole, 181.55 g, 76.6% yield | C(CC(=O)C)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C11H11NO5
